US09358231B2
C. (E)-tert-butyl 4-(4-(5-(3-hydroxystyryl)pyrazin-2-ylamino)phenylsulfonyl)piperazine-1-carboxylate
A mixture of tert-butyl 4-(4-(5-vinylpyrazin-2-ylamino)phenylsulfonyl)piperazine-1-carboxylate (40 mg, 0.09 mmol), 3-iodophenol (19 mg, 0.09 mmol), Pd(OAc)2 (1.2 mg, 0.005 mmol), tri-p-tolylphosphine (2.5 mg, 0.008 mmol), and DIEA (31 μL, 0.18 mmol) in DMF (3 ml) was heated at 120° C. for 18 h after which, it was filtered with a pad of celite and partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography using (20% to 40% Ethyl acetate/Hexane) as a solvent to afford title compound (38 mg, 78% yield). MS m/z: 538 [M+1].

reactant | tert-butyl 4-(4-(5-vinylpyrazin-2-ylamino)phenylsulfonyl)piperazine-1-carboxylate | 0.09 mmol, 40 mg | C(=C)C=1N=CC(=NC1)NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C21H27N5O4S
reactant | 3-iodophenol | 0.09 mmol, 19 mg | IC=1C=C(C=CC1)O | C6H5IO
reactant | tri-p-tolylphosphine | 0.008 mmol, 2.5 mg | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | DIEA | 0.18 mmol, 31 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.005 mmol, 1.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-tert-butyl 4-(4-(5-(3-hydroxystyryl)pyrazin-2-ylamino)phenylsulfonyl)piperazine-1-carboxylate | 38 mg, 78% yield | OC=1C=C(/C=C/C=2N=CC(=NC2)NC2=CC=C(C=C2)S(=O)(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C27H31N5O5S
